US04294960
7-[2-(2-Formamidothiazol-4-yl)-4-n-octyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 8.0 g.), conc. hydrochloric acid (6.23 g.), tetrahydrofuran (15 ml.) and methanol (120 ml.) were treated in a similar manner to that of Example 21-(3) to give 7-[2-(2-aminothiazol-4-yl)-2-n-octyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 6.95 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-4-n-octyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 8.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC(CCC)CCCC | C21H27N5O6S2
reactant | hydrochloric acid | 6.23 g | Cl | ClH
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 120 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-n-octyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 6.95 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCCCCCC | C20H27N5O5S2
